US05674482
To a solution of 4-benzyloxyphenethyl alcohol (8.29 g) and carbon tetrabromide (24.1 g) in ether (150 ml) is portionwise added triphenylphosphine (19.0 g) and the resulting mixture stirred for about 3 hours. The supernatent is decanted, the solid washed with ether and the combined organic solution concentrated in vacuo. The crude product is purified by passing it through a silica plug to give 4-benzyloxyphenethyl bromide.

reactant | 4-benzyloxyphenethyl alcohol | 8.29 g | C(C1=CC=CC=C1)OC1=CC=C(CCO)C=C1 | C15H16O2
reactant | carbon tetrabromide | 24.1 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 19.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-benzyloxyphenethyl bromide | C(C1=CC=CC=C1)OC1=CC=C(CCBr)C=C1 | C15H15BrO
